US05348965
To a solution of 2-((10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)methoxy)ethylbromide (14.0 g, 42.5 mmol) in acetone (100 ml) was added potassium carbonate (23.5 g, 170 mmol), potassium iodide (0.7 g) and ethyl (R)-3-piperidinecarboxylate tartrate (19.6 g, 64 mmol). The suspension was stirred at room temperature for 3 days. The reaction mixture was filtered and the solvent was evaporated from the filtrate in vacuo. The oily residue was dissolved in ethyl acetate (150 ml). A 34% aqueous tartaric acid solution (100 ml) was added and pH was adjusted to 2.5 with a 4 M aqueous sodium hydroxide solution. The phases were separated and the organic phase was washed with a 2.5% aqueous solution of sodium bicarbonate (100 ml) and a 5% aqueous sodium bicarbonate solution (25 ml). The combined aqueous phases were extracted with ethyl acetate (100 ml). The combined organic phases were dried over magnesium sulphate. The solvent was evaporated in vacuo to give 12.0 g of (R)-N-(2-((10,11-dihydro-5H-dibenzo [a, d]cyclohepten-5-ylidene)methoxy)ethyl)-3-piperidinecarboxylic acid ethyl ester as an oil. TLC: rf=0.45 (SiO2 ; dichloromethane/methanol/acetic acid=20:2:1).

reactant | 2-((10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)methoxy)ethylbromide | 42.5 mmol, 14.0 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=COCCBr | C18H17BrO
reactant | potassium carbonate | 170 mmol, 23.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.7 g | [I-].[K+]
reactant | ethyl (R)-3-piperidinecarboxylate tartrate | 64 mmol, 19.6 g | C(=O)(O)C(O)C(O)C(=O)O.N1C[C@@H](CCC1)C(=O)OCC
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (R)-N-(2-((10,11-dihydro-5H-dibenzo [a, d]cyclohepten-5-ylidene)methoxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | 12.0 g | C(C)OC(=O)[C@H]1CN(CCC1)CCOC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C26H31NO3
